US07825253B2
(2-Methoxy-benzyl)-[5-((E)-styryl)-quinolin-2-yl]-amine
(5-Bromo-quinolin-2-yl)-(2-methoxy-benzyl)-amine (200 mg, 0.583 mmol) was dissolved in 3 mL dimethylformamide. Styrene (79 mg, 0.760 mmol), triethylamine (77 mg, 0.760 mmol), tri-o-tolylphosphine (14 mg, 0.046 mmol) and palladium(II)acetate (5 mg, 0.022 mmol) were added. The reaction mixture was stirred in a sealed tube at 100° C. for 2 h. The reaction mixture was poured into 30 mL water and extracted three times with ethyl acetate (30 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The residue purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->80:20 gradient). The title compound was obtained as a light yellow solid (142 mg, 67%),

reactant | (5-Bromo-quinolin-2-yl)-(2-methoxy-benzyl)-amine | 0.583 mmol, 200 mg | BrC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC | C17H15BrN2O
reactant | Styrene | 0.760 mmol, 79 mg | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 0.760 mmol, 77 mg | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 0.046 mmol, 14 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | palladium(II)acetate | 0.022 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 30 mL | O | H2O
product | (2-Methoxy-benzyl)-[5-((E)-styryl)-quinolin-2-yl]-amine | COC1=C(CNC2=NC3=CC=CC(=C3C=C2)\C=C\C2=CC=CC=C2)C=CC=C1 | C25H22N2O
